US08106204B2
d) 2-Amino-6-chloro-4-(4-aminophenyl)quinoline
1.8 ml of concentrated hydrochloric acid were added dropwise to a suspension of 0.59 g of 2-acetylamino-6-chloro-4-(4-nitrophenyl)quinoline and 0.29 g of iron powder, and then the reaction mixture was heated under reflux for 4 hours and filtered while hot. The solvent was removed by distillation, an MPLC was carried out on an MPRC cartridge with a mixture of 10 parts by volume of dichloromethane and 1 part by volume of methanol, and the substance was obtained as a yellow viscous oil.

reactant | hydrochloric acid | 1.8 ml | Cl | ClH
reactant | 2-acetylamino-6-chloro-4-(4-nitrophenyl)quinoline | 0.59 g | C(C)(=O)NC1=NC2=CC=C(C=C2C(=C1)C1=CC=C(C=C1)[N+](=O)[O-])Cl | C17H12ClN3O3
catalyst | iron | 0.29 g | [Fe] | Fe
product | 2-Amino-6-chloro-4-(4-aminophenyl)quinoline | NC1=NC2=CC=C(C=C2C(=C1)C1=CC=C(C=C1)N)Cl | C15H12ClN3
